US05532240
A mixture of 2.8 g of 7-acetyl-2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine, 2.6 g of 4-(6-fluoro-1,2-benzisoxazol- 3-yl)piperidine hydrochloride, 3.9 g of potassium carbonate and 1.55 g of potassium iodide in 30 ml of dimethylformamide and 30 ml of toluene was stirred at 70° C. for 20 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel to give 3.0 g of 7-(acetyl-2-(4-(4-(6-fluoro-l,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine as an oil. The oil was treated with hydrochloric acid in isopropyl alcohol and recrystallized from ethanol-ethyl acetate to give 7-acetyl-2-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine hydrochloride, m.p. 230° C. (decomposition).

reactant | 7-acetyl-2-(4-chlorobutyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 2.8 g | C(C)(=O)N1CC2=C(CCC1)C=C(S2)C(CCCCl)=O | C14H18ClNO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol- 3-yl)piperidine hydrochloride | 2.6 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.55 g | [I-].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | acetyl-2-(4-(4-(6-fluoro-l,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | C(C)(=O)C1=C(SC=2CNCCCC21)C(CCCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)=O | C26H30FN3O3S
